US07989454B2
3-Benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid
3-Benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester (6.9 g) was dissolved in a mixture of TFA and dichloromethane (1:1, 50 mL) and stirred at room temperature overnight. The solvents were removed under reduced pressure and the crude material was purified on a silica gel column using ethyl acetate and hexanes to yield the title compound (6.3 g, 99% yield).

reactant | 3-Benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid tert-butyl ester | 6.9 g | C(C)(C)(C)OC(C1=CC(=CC(=C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)C1=CC2=C(OCO2)C=C1)=O | C41H52O10
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-Benzo[1,3]dioxol-5-yl-5-{6-[2-(2-ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-benzoic acid | 6.3 g, 99% yield | O1COC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=C(C2)OCCCCCCC2=C(C(=CC=C2)OCCCC(=O)OCC)CCC(=O)OCC | C37H44O10
